### PR TITLE
[Merged by Bors] - feat(Algebra/Category/Ring): equalizers of pushout maps of tensor product inclusions

### PR DESCRIPTION
**Pull request by yonggyuchoimath**
This PR defines a ring map `S →ₗ[R] S ⊗[R] S : s ↦ (s ⊗ₜ[R] 1) - (1 ⊗ₜ[R] s)` for an `R`-algebra `S`, and show that its kernel is exactly (the image of) `R` if `S` is faithfully flat over `R`.

Changes: 

* `TensorProduct.AlgebraTensorModule.distribBaseChange`: Origianlly takes `M` and `N`, where `M` is an `R`-module with an additional instance `IsScalarTower R A M`. This is unnecessary, so I changed the `M` and `N` into `N` and `Q`, now both of which are merely modules over `R`.

Main results :

* Add compatibility of `Algebra.TensorProduct.includeLeft` (or `Algebra.TensorProduct.includeRight`) with `TensorProduct.AlgebraTensorModule.distribBaseChange` and `LinearMap.lTensor`

* Define `Algebra.TensorProduct.includeLeftSubRight`, which is the `R`-linear map `S →ₗ[R] S ⊗[R] S` sending `s : S` to `(s ⊗ₜ[R] 1) - (1 ⊗ₜ[R] s)`.

* `Algebra.isEffective_of_faithfullyFlat`: the pair `algebraMap : R → S` and `includeLeftSubRight R S : S → S ⊗[R] S` is exact if `S` is a faithfully flat `R`-algebra.

---

- [x] depends on: #30806

### CODE REVIEW

**Review by erdOne — COMMENTED** [review]
Do you think it is worth bundling this result into `EffectiveEpi` (in `CommRingCatᵒᵖ`)?

And I would suggest you to split this PR in half, moving `Mathlib/Algebra/Category/Ring/EqualizerPushout.lean` into a new PR instead.

**Comment by yonggyuchoimath** [comment]
Having `EffectiveEpi` in `AffineScheme` would be definitely useful for me. I've actually been using `isLimitForkPushoutSelf` to define a map of affine schemes, and that requires:

1. Using `isLimitForkPushoutSelf` to construct a map between `Γ((some affine scheme), ⊤) ⟶ Γ((another affine scheme), ⊤)`
3. Applying `Scheme.isoSpec` to define `some affine scheme ⟶ another affine scheme`

Formalizing `EffectiveEpi` in `AffineScheme` would ease this construction.

I'll work on implementing this, and will split off `Mathlib/Algebra/Category/Ring/EqualizerPushout.lean` into a separate PR as suggested.

Thanks for the feedback!

WIP

**Comment by yonggyuchoimath** [comment]
I've removed all the categorical constructions regarding this (I hope to open a new PR soon), and made several polishments.

-WIP

**Comment by yonggyuchoimath** [comment]
Somehow the build process keeps failing at `Mathlib/MeasureTheory/Integral/Bochner/Basic.lean` after merging master. It seems unrelated to the contents of the PR (maybe a git issue) but I'll temporarily mark it as WIP.

+WIP

**Comment by yonggyuchoimath** [comment]
Build is not failing now (cf. [Build error in Tactic file](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/Build.20error.20in.20Tactic.20file/with/546398628) and #30788).

Also, I just noticed that the file`Mathlib.RingTheory.TensorProduct.Basic` almost reached 1500 lines. I've created a PR #30806 splitting the file, and made this PR depend on it.

-WIP

File: Mathlib/LinearAlgebra/TensorProduct/Tower.lean [hunk 1]
```diff
@@ -452,6 +452,16 @@ theorem lTensor_comp_cancelBaseChange (f : N →ₗ[R] Q) :
...
   ext; simp
 
+@[simp]
+theorem distribBaseChange_tmul (n : N) (q : Q) (a : A) :
+    distribBaseChange R A N Q (a ⊗ₜ (n ⊗ₜ q)) = (a ⊗ₜ n) ⊗ₜ (1 ⊗ₜ q) :=
+  rfl
+
+@[simp]
+theorem distribBaseChange_symm_tmul (n : N) (q : Q) (a : A) :
+    (distribBaseChange R A N Q).symm ((a ⊗ₜ n) ⊗ₜ (1 ⊗ₜ q)) = a ⊗ₜ (n ⊗ₜ q) :=
```
Comment (erdOne) [inline Mathlib/LinearAlgebra/TensorProduct/Tower.lean]:
```suggestion
theorem distribBaseChange_symm_tmul (n : N) (q : Q) (a b : A) :
    (distribBaseChange R A N Q).symm ((a ⊗ₜ n) ⊗ₜ (b ⊗ₜ q)) = (a * b) ⊗ₜ (n ⊗ₜ q) :=
```
The proof would probably break.

File: Mathlib/RingTheory/TensorProduct/IncludeLeftSubRight.lean [hunk 2]
```diff
@@ -0,0 +1,164 @@
...
+section IncludeLeftSubRight
+
+variable {R : Type uR} [CommSemiring R]
+variable {S : Type uS} [Ring S] [Algebra R S]
+
+variable (R S) in
+/-- The `R`-linear map `S →ₗ[R] S ⊗[R] S` sending `s : S` to `(s ⊗ₜ[R] 1) - (1 ⊗ₜ[R] s)`. -/
+def includeLeftSubRight : S →ₗ[R] S ⊗[R] S :=
+  (includeLeft (R := R) (S := R) (A := S) (B := S)).toLinearMap -
+    (includeRight (R := R) (A:= S) (B := S)).toLinearMap
```
Comment (erdOne) [inline Mathlib/RingTheory/TensorProduct/IncludeLeftSubRight.lean]:
```suggestion
  includeLeft.toLinearMap - includeRight.toLinearMap
```
Does this not work?

File: Mathlib/RingTheory/TensorProduct/IncludeLeftSubRight.lean [hunk 3]
```diff
@@ -0,0 +1,164 @@
...
+
+@[simp]
+lemma includeLeftSubRight_apply (s : S) : includeLeftSubRight R S s = s ⊗ₜ[R] 1 - 1 ⊗ₜ[R] s :=
+  rfl
+
+/-- `includeLeftSubRight R S` vanishes in the range of `algebraMap R S`. -/
+lemma includeLeftSubRight_zero_of_mem_range {s : S} (hs : s ∈ Set.range ⇑(algebraMap R S)) :
+    (includeLeftSubRight R S) s = 0 := by
```
Comment (erdOne) [inline Mathlib/RingTheory/TensorProduct/IncludeLeftSubRight.lean]:
```suggestion
    includeLeftSubRight R S s = 0 := by
```
Can you also add a `includeLeftSubRight R S (algebraMap R S x) = 0`? Thanks.

File: Mathlib/RingTheory/TensorProduct/IncludeLeftSubRight.lean [hunk 4]
```diff
@@ -0,0 +1,164 @@
...
+
+variable (R S) in
+/-- For an `R`-algebra `S`, this asserts that the maps `algebraMap : R → S` and
+`includeLeftSubRight R S : S → S ⊗[R] S` form an exact pair. -/
+def ExactIncludeLeftSubRight : Prop :=
+  Function.Exact ⇑(algebraMap R S) ⇑(includeLeftSubRight R S)
+
+/-- `ExactIncludeLeftSubRight` is true for any `R`-algebra `S` having an `R`-algebra section of
+`Algebra.ofId _ _ : R →ₐ[R] S`. -/
+lemma ExactIncludeLeftSubRight_of_section (g : AlgHom R S R) : ExactIncludeLeftSubRight R S := by
```
Comment (erdOne) [inline Mathlib/RingTheory/TensorProduct/IncludeLeftSubRight.lean]:
```suggestion
lemma ExactIncludeLeftSubRight.of_section (g : S →ₐ[R] R) : ExactIncludeLeftSubRight R S := by
```
Or else lemmas should be lowercased. Same below.

File: Mathlib/RingTheory/TensorProduct/IncludeLeftSubRight.lean [hunk 5]
```diff
@@ -0,0 +1,164 @@
...
+section CommRingCat
+
+universe u
+
+variable (R S : Type u) [CommRing R] [CommRing S] [Algebra R S]
+
+/-- For an `R`-algebra `S`, the canonical ring map from `R` to the equalizer locus of
+`s ↦ s ⊗ₜ (1 : S)` and `s ↦ (1 : S) ⊗ₜ s`. -/
+def toEqLocusOfInclusion : R →+* (CommRingCat.pushoutCocone R S S).inl.hom.eqLocus
+    (CommRingCat.pushoutCocone R S S).inr.hom where
```
Comment (erdOne) [inline Mathlib/RingTheory/TensorProduct/IncludeLeftSubRight.lean]: I would prefer not to use the categorical construction here. Just use `Algebra.TensorProduct.includeLeftRingHom.eqLocus Algebra.TensorProduct.includeRight.toRingHom`.

Comment (erdOne) [reply Mathlib/RingTheory/TensorProduct/IncludeLeftSubRight.lean]: Also is `RingHom.codRestrict` useful for this def?

File: Mathlib/RingTheory/TensorProduct/IncludeLeftSubRight.lean [hunk 6]
```diff
@@ -0,0 +1,164 @@
...
+      ((includeLeftSubRight R S).lTensor T) := by
+  simp only [includeLeftSubRight, LinearMap.lTensor_sub, LinearMap.comp_sub,
+    distribBaseChange_includeLeft_lTensor, distribBaseChange_includeRight_lTensor]
+  rfl
+
+variable (R S) in
+/-- For an `R`-algebra `S`, this asserts that the maps `algebraMap : R → S` and
+`includeLeftSubRight R S : S → S ⊗[R] S` form an exact pair. -/
+def ExactIncludeLeftSubRight : Prop :=
+  Function.Exact ⇑(algebraMap R S) ⇑(includeLeftSubRight R S)
```
Comment (erdOne) [inline Mathlib/RingTheory/TensorProduct/IncludeLeftSubRight.lean]:
```suggestion
  Function.Exact (algebraMap R S) (includeLeftSubRight R S)
```
And I am guessing replacing `algebraMap R S` with `Algebra.linearMap R S` would make it easier to use.

File: Mathlib/RingTheory/TensorProduct/IncludeLeftSubRight.lean [hunk 7]
```diff
@@ -0,0 +1,164 @@
...
+    ((TensorProduct.AlgebraTensorModule.distribBaseChange R T S S).restrictScalars R).toLinearMap ∘ₗ
+      ((includeLeftSubRight R S).lTensor T) := by
+  simp only [includeLeftSubRight, LinearMap.lTensor_sub, LinearMap.comp_sub,
+    distribBaseChange_includeLeft_lTensor, distribBaseChange_includeRight_lTensor]
+  rfl
+
+variable (R S) in
+/-- For an `R`-algebra `S`, this asserts that the maps `algebraMap : R → S` and
+`includeLeftSubRight R S : S → S ⊗[R] S` form an exact pair. -/
+def ExactIncludeLeftSubRight : Prop :=
```
Comment (erdOne) [inline Mathlib/RingTheory/TensorProduct/IncludeLeftSubRight.lean]: And I am thinking of just naming this `Algebra.IsEffective`, with a remark that this is true if and only if the inclusion `im(R) -> S` is an effective monomorphism.

File: Mathlib/RingTheory/TensorProduct/Maps.lean [hunk 8]
```diff
@@ -267,6 +267,57 @@ variable {A} in
...
+    (AlgebraTensorModule.distribBaseChange R A B C)
+      ((includeLeft (R := R) (A := B) (B := C)).toLinearMap.lTensor A (a ⊗ₜ[R] b)) =
+    (includeLeft (R := A) (S := R) (A := A ⊗[R] B) (B := A ⊗[R] C)) (a ⊗ₜ[R] b) := by
+  simp [one_def]
+
+/-- A relation between `distribBaseChange`, `includeLeft` and `lTensor`. -/
+lemma distribBaseChange_includeLeft_lTensor :
+    ((AlgebraTensorModule.distribBaseChange R A B C).restrictScalars R) ∘ₗ
+      ((includeLeft (R := R) (A := B) (B := C)).toLinearMap.lTensor A) =
+    (includeLeft (R := A) (S := R) (A := A ⊗[R] B) (B := A ⊗[R] C)).toLinearMap := by
```
Comment (erdOne) [inline Mathlib/RingTheory/TensorProduct/Maps.lean]: Can you investigate if all these `(_ := _)` are necessary? Same below.

File: Mathlib/RingTheory/TensorProduct/IncludeLeftSubRight.lean (hunk 5 above)
Comment (yonggyuchoimath) [reply Mathlib/RingTheory/TensorProduct/IncludeLeftSubRight.lean]: I've removed the definition `toEqLocusOfInclusion` and its injectivity statement (from the injectivity of `algebraMap R S`).

Instead, I added `eqLocus_includeLeft_includeRight_of_isEffective` stating that the equalizing locus for the left/right tensor inclusions is equal to the image of `algebraMap R S` (under the `IsEffective` hypothesis; see below comments!).

File: Mathlib/RingTheory/TensorProduct/IncludeLeftSubRight.lean (hunk 7 above)
Comment (yonggyuchoimath) [reply Mathlib/RingTheory/TensorProduct/IncludeLeftSubRight.lean]: I've renamed `ExactIncludeLeftSubRight` as `Algebra.IsEffective`.

File: Mathlib/RingTheory/TensorProduct/IncludeLeftSubRight.lean [hunk 9]
```diff
@@ -0,0 +1,150 @@
...
+
+variable {R : Type uR} [CommSemiring R]
+variable {S : Type uS} [Ring S] [Algebra R S]
+
+namespace TensorProduct
+
+section IncludeLeftSubRight
+
+variable (R S) in
+/-- The `R`-linear map `S →ₗ[R] S ⊗[R] S` sending `s : S` to `(s ⊗ₜ[R] 1) - (1 ⊗ₜ[R] s)`. -/
```
Comment (erdOne) [inline Mathlib/RingTheory/TensorProduct/IncludeLeftSubRight.lean]:
```suggestion
/-- The `R`-linear map `S →ₗ[R] S ⊗[R] S` sending `s : S` to `(s ⊗ₜ 1) - (1 ⊗ₜ s)`. -/
```

File: Mathlib/RingTheory/TensorProduct/IncludeLeftSubRight.lean [hunk 10]
```diff
@@ -0,0 +1,150 @@
...
+    TensorProduct.map_tmul, map_one, AlgHom.id_apply]
+
+section FaithfullyFlat
+
+variable (R : Type uR) [CommRing R]
+variable (S : Type uS)
+variable (T : Type uT) [CommRing T] [Algebra R T]
+
+/-- `IsEffective` descends along faithfully flat algebras. -/
+lemma isEffective_of_desc_faithfullyFlat [Ring S] [Algebra R S] [Module.FaithfullyFlat R T]
```
Comment (erdOne) [inline Mathlib/RingTheory/TensorProduct/IncludeLeftSubRight.lean]:
```suggestion
lemma isEffective_of_isEffective_tensorProduct_of_faithfullyFlat [Ring S] [Algebra R S] [Module.FaithfullyFlat R T]
```

File: Mathlib/RingTheory/TensorProduct/Maps.lean [hunk 11]
```diff
@@ -267,6 +267,56 @@ variable {A} in
 @[simp]
 theorem rid_symm_apply (a : A) : (TensorProduct.rid R S A).symm a = a ⊗ₜ 1 := rfl
 
+variable (T) in
+lemma rid_lTensor : (Algebra.linearMap S (S ⊗[R] B)).restrictScalars R ∘ₗ
```
Comment (erdOne) [inline Mathlib/RingTheory/TensorProduct/Maps.lean]:
```suggestion
lemma linearMap_comp_rid : (Algebra.linearMap S (S ⊗[R] B)).restrictScalars R ∘ₗ
```

File: Mathlib/RingTheory/TensorProduct/Maps.lean [hunk 12]
```diff
@@ -267,6 +267,56 @@ variable {A} in
...
+variable (R A B C : Type*)
+variable [CommSemiring R]
+variable [CommSemiring A] [Algebra R A]
+variable [Semiring B] [Algebra R B]
+variable [Semiring C] [Algebra R C]
+
+lemma distribBaseChange_includeLeft_lTensor_tmul (a : A) (b : B) :
+    AlgebraTensorModule.distribBaseChange R A B C (includeLeft.toLinearMap.lTensor A (a ⊗ₜ[R] b)) =
+      includeLeft (S := R) (a ⊗ₜ[R] b) := by
+  simp [one_def]
```
Comment (erdOne) [inline Mathlib/RingTheory/TensorProduct/Maps.lean]: Do you really need this? This looks quite weird to me.

File: Mathlib/RingTheory/TensorProduct/Maps.lean [hunk 13]
```diff
@@ -267,6 +267,56 @@ variable {A} in
...
+    (TensorProduct.rid R R S).toLinearMap = (Algebra.linearMap R B).lTensor S := by
+  ext; simp
+
+section DistribBaseChange
+
+variable (R A B C : Type*)
+variable [CommSemiring R]
+variable [CommSemiring A] [Algebra R A]
+variable [Semiring B] [Algebra R B]
+variable [Semiring C] [Algebra R C]
```
Comment (erdOne) [inline Mathlib/RingTheory/TensorProduct/Maps.lean]:
```suggestion
variable (R A B C : Type*) [CommSemiring R] [CommSemiring A] [Algebra R A] [Semiring B]
  [Algebra R B] [Semiring C] [Algebra R C]
```

File: Mathlib/RingTheory/TensorProduct/Maps.lean [hunk 14]
```diff
@@ -267,6 +267,56 @@ variable {A} in
...
+/-- A relation between `distribBaseChange`, `includeRight` and `lTensor`. -/
+lemma distribBaseChange_includeRight_lTensor :
+    ((AlgebraTensorModule.distribBaseChange R A B C).restrictScalars R) ∘ₗ
+      ((includeRight (R := R) (A := B) (B := C)).toLinearMap.lTensor A) =
+    ((includeRight (R := A) (A := A ⊗[R] B) (B := A ⊗[R] C)).restrictScalars R).toLinearMap := by
+  apply LinearMap.ext
+  intro x
+  induction x using TensorProduct.induction_on with
+  | zero => simp only [map_zero]
+  | tmul _ _ => exact distribBaseChange_includeRight_lTensor_tmul _ _ _ _ _ _
```
Comment (erdOne) [inline Mathlib/RingTheory/TensorProduct/Maps.lean]:
```suggestion
  | tmul x y =>
    trans x • 1 ⊗ₜ[A] (1 ⊗ₜ[R] y)
    · simp [AlgebraTensorModule.distribBaseChange, Algebra.smul_def]
    · simp [← tmul_smul, smul_tmul' (M := A)]
```

File: Mathlib/RingTheory/TensorProduct/Maps.lean [hunk 15]
```diff
@@ -267,6 +267,56 @@ variable {A} in
...
+    (includeLeft (R := A) (A := A ⊗[R] B) (B := A ⊗[R] C)).toLinearMap := by
+  ext; simp [one_def]
+
+lemma distribBaseChange_includeRight_lTensor_tmul (a : A) (c : C) :
+    (AlgebraTensorModule.distribBaseChange R A B C)
+      ((includeRight (R := R) (A := B) (B := C)).toLinearMap.lTensor A (a ⊗ₜ c)) =
+    (includeRight (R := A) (A := A ⊗[R] B) (B := A ⊗[R] C)) (a ⊗ₜ c) := by
+  simp only [includeRight_apply, LinearMap.lTensor_tmul, AlgHom.toLinearMap_apply,
+    TensorProduct.AlgebraTensorModule.distribBaseChange_tmul, includeRight_apply, one_def]
+  rw [← mul_one a, ← smul_eq_mul, ← smul_tmul', smul_tmul, smul_tmul']
```
Comment (erdOne) [inline Mathlib/RingTheory/TensorProduct/Maps.lean]: This is also really weird because the LHS is not in simp normal form.

File: Mathlib/RingTheory/TensorProduct/Maps.lean (hunk 14 above)
Comment (erdOne) [reply Mathlib/RingTheory/TensorProduct/Maps.lean]: Arguably one should add simp lemmas like `AlgebraTensorModule.distribBaseChange_tmul_tmul` instead of unfolding it.

Comment (yonggyuchoimath) [reply Mathlib/RingTheory/TensorProduct/Maps.lean]: Maybe you mean this simp lemma?
```
@[simp]
theorem distribBaseChange_tmul (n : N) (q : Q) (a : A) :
    distribBaseChange R A N Q (a ⊗ₜ (n ⊗ₜ q)) = (a ⊗ₜ n) ⊗ₜ (1 ⊗ₜ q) :=
  rfl
```
It's already in this PR (line 458-461): [Mathlib/RingTheory/TensorProduct/Tower.lean](https://github.com/leanprover-community/mathlib4/pull/29960/changes#diff-a95db1e54d96d018c59094184834330bdf60f8acd539f076a15b52c6d7461571R455-R458) so I removed `AlgebraTensorModule.distribBaseChange` in the first `simp` in the proof.

File: Mathlib/RingTheory/TensorProduct/Maps.lean (hunk 12 above)
Comment (yonggyuchoimath) [reply Mathlib/RingTheory/TensorProduct/Maps.lean]: I've removed it.

File: Mathlib/RingTheory/TensorProduct/Maps.lean (hunk 15 above)
Comment (yonggyuchoimath) [reply Mathlib/RingTheory/TensorProduct/Maps.lean]: I've removed this lemma.

File: Mathlib/LinearAlgebra/TensorProduct/Tower.lean [hunk 16]
```diff
@@ -455,6 +455,18 @@ theorem lTensor_comp_cancelBaseChange (f : N →ₗ[R] Q) :
       (cancelBaseChange R A B M Q).toLinearMap ∘ₗ lTensor _ _ (lTensor _ _ f) := by
   ext; simp
 
+@[simp]
+theorem distribBaseChange_tmul (n : N) (q : Q) (a : A) :
+    distribBaseChange R A N Q (a ⊗ₜ (n ⊗ₜ q)) = (a ⊗ₜ n) ⊗ₜ (1 ⊗ₜ q) :=
+  rfl
+
+theorem distribBaseChange_symm_tmul
```
Comment (chrisflav) [inline Mathlib/LinearAlgebra/TensorProduct/Tower.lean:464]:
```suggestion
@[simp]
theorem distribBaseChange_symm_tmul
```

File: Mathlib/RingTheory/TensorProduct/IncludeLeftSubRight.lean [hunk 17]
```diff
@@ -0,0 +1,152 @@
...
+module
+
+public import Mathlib.Algebra.Category.Ring.Constructions
+public import Mathlib.RingTheory.Flat.FaithfullyFlat.Basic
+
+/-!
+# Exactness properties of the difference map for tensor products
+
+For an `R`-algebra `S`, we collect some properties of the `R`-linear map `S →ₗ[R] S ⊗[R] S` given
+by `s ↦ (s ⊗ₜ 1) - (1 ⊗ₜ s)`.
```
Comment (chrisflav) [inline Mathlib/RingTheory/TensorProduct/IncludeLeftSubRight.lean]:
```suggestion
by `s ↦ s ⊗ₜ 1 - 1 ⊗ₜ s`.
```

File: Mathlib/RingTheory/TensorProduct/IncludeLeftSubRight.lean [hunk 18]
```diff
@@ -0,0 +1,152 @@
...
+
+## Main definitions
+
+* `includeLeftSubRight`: The `R`-linear map sending `s : S` to `s ⊗ₜ 1 - 1 ⊗ₜ s`.
+* `ExactIncludeLeftSubRight`: Exactness of the sequence `R → S → S ⊗[R] S` with the right map given
```
Comment (chrisflav) [inline Mathlib/RingTheory/TensorProduct/IncludeLeftSubRight.lean]:
```suggestion
* `IsEffective`: Exactness of the sequence `R → S → S ⊗[R] S` with the right map given
```
Could you please also mention the explanation with effective epimorphisms here?

File: Mathlib/RingTheory/TensorProduct/IncludeLeftSubRight.lean [hunk 19]
```diff
@@ -0,0 +1,152 @@
...
+  by `includeLeftSubRight`
+* `toEqLocusOfInclusion`: The ring map from `R` to the equalizer locus in `S` of the two maps
+  `s ↦ s ⊗ₜ (1 : S)` and `s ↦ (1 : S) ⊗ₜ s`.
+
+## Main results
+
+* `exactIncludeLeftSubRight_of_faithfullyFlat`: `ExactIncludeLeftSubRight R S` is true for any
```
Comment (chrisflav) [inline Mathlib/RingTheory/TensorProduct/IncludeLeftSubRight.lean]:
```suggestion
* `isEffective_of_faithfullyFlat`: `IsEffective R S` is true for any
```

File: Mathlib/RingTheory/TensorProduct/IncludeLeftSubRight.lean [hunk 20]
```diff
@@ -0,0 +1,152 @@
...
+For an `R`-algebra `S`, we collect some properties of the `R`-linear map `S →ₗ[R] S ⊗[R] S` given
+by `s ↦ (s ⊗ₜ 1) - (1 ⊗ₜ s)`.
+
+## Main definitions
+
+* `includeLeftSubRight`: The `R`-linear map sending `s : S` to `s ⊗ₜ 1 - 1 ⊗ₜ s`.
+* `ExactIncludeLeftSubRight`: Exactness of the sequence `R → S → S ⊗[R] S` with the right map given
+  by `includeLeftSubRight`
+* `toEqLocusOfInclusion`: The ring map from `R` to the equalizer locus in `S` of the two maps
+  `s ↦ s ⊗ₜ (1 : S)` and `s ↦ (1 : S) ⊗ₜ s`.
```
Comment (chrisflav) [inline Mathlib/RingTheory/TensorProduct/IncludeLeftSubRight.lean]: This is not contained in this file. Will it come in a follow-up? In any case, please remove this for now (or put it in a TODO comment).

File: Mathlib/RingTheory/TensorProduct/IncludeLeftSubRight.lean [hunk 21]
```diff
@@ -0,0 +1,152 @@
...
+@[expose] public section
+
+open scoped TensorProduct
+
+universe uR uS uT
+
+namespace Algebra
+
+variable {R : Type uR} [CommSemiring R]
+variable {S : Type uS} [Ring S] [Algebra R S]
```
Comment (chrisflav) [inline Mathlib/RingTheory/TensorProduct/IncludeLeftSubRight.lean]:
```suggestion
namespace Algebra

variable {R : Type*} [CommSemiring R]
variable {S : Type*} [Ring S] [Algebra R S]
```
When the universes don't matter, we usually use `Type*` to indicate that. You will also have to change `T : Type uT` to `T : Type*`.

File: Mathlib/RingTheory/TensorProduct/IncludeLeftSubRight.lean [hunk 22]
```diff
@@ -0,0 +1,152 @@
...
+    TensorProduct.includeLeftRingHom.eqLocus TensorProduct.includeRight.toRingHom (S := S ⊗[R] S) =
+      Set.range (algebraMap R S) := by
+  ext s
+  refine ⟨?_, fun ⟨_, hr⟩ ↦ by simp [← hr]⟩
+  intro hs
+  exact (h s).mp <| (TensorProduct.includeLeftSubRight_apply (R := R) s).symm ▸ sub_eq_zero.mpr hs
+
+/-- `IsEffective` is true for any `R`-algebra `S` having an `R`-algebra section of
+`Algebra.ofId _ _ : R →ₐ[R] S`. -/
+lemma isEffective_of_section (g : S →ₐ[R] R) : IsEffective R S := by
```
Comment (chrisflav) [inline Mathlib/RingTheory/TensorProduct/IncludeLeftSubRight.lean]:
```suggestion
lemma of_section (g : S →ₐ[R] R) : IsEffective R S := by
```
with the namespace change above. Similarly below.

File: Mathlib/RingTheory/TensorProduct/IncludeLeftSubRight.lean [hunk 23]
```diff
@@ -0,0 +1,152 @@
...
+  includeLeftSubRight_zero_of_mem_range (Set.mem_range.mp (exists_apply_eq_apply _ _))
+
+/-- `includeLeftSubRight` is compatible with `distribBaseChange` and `lTensor`. -/
+lemma includeLeftSubRight_distribBaseChange (T : Type uT) [CommRing T] [Algebra R T] :
+    (includeLeftSubRight T (T ⊗[R] S)).restrictScalars R =
+    ((TensorProduct.AlgebraTensorModule.distribBaseChange R T S S).restrictScalars R).toLinearMap ∘ₗ
+      ((includeLeftSubRight R S).lTensor T) := by
+  simp only [includeLeftSubRight, LinearMap.lTensor_sub, LinearMap.comp_sub,
+    distribBaseChange_includeLeft_lTensor, distribBaseChange_includeRight_lTensor]
+  rfl
```
Comment (chrisflav) [inline Mathlib/RingTheory/TensorProduct/IncludeLeftSubRight.lean]:
```suggestion
/-- `includeLeftSubRight` is compatible with `distribBaseChange` and `lTensor`. -/
lemma distribBaseChange_comp_includeLeftSubRight (T : Type*) [CommRing T] [Algebra R T] :
    ((TensorProduct.AlgebraTensorModule.distribBaseChange R T S S).restrictScalars R).toLinearMap ∘ₗ
      (includeLeftSubRight R S).lTensor T =
    (includeLeftSubRight T (T ⊗[R] S)).restrictScalars R := by
  simp only [includeLeftSubRight, LinearMap.lTensor_sub, LinearMap.comp_sub,
    distribBaseChange_includeLeft_lTensor, distribBaseChange_includeRight_lTensor]
  rfl

@[simp]
lemma distribBaseChange_includeLeftSubRight_apply (T : Type*) [CommRing T] [Algebra R T]
    (x : T ⊗[R] S) :
    TensorProduct.AlgebraTensorModule.distribBaseChange R T S S
      ((includeLeftSubRight R S).lTensor T x) =
    includeLeftSubRight T (T ⊗[R] S) x :=
  congr($(distribBaseChange_comp_includeLeftSubRight _) x)
```
We usually prefer to put the more complicated side of the equation on the left. And then in practice,
the applied version is usually a better `simp` lemma. With this change one proof below is now `by ext; simp` instead of `change ...` (I'll make a separate comment below).

File: Mathlib/RingTheory/TensorProduct/IncludeLeftSubRight.lean [hunk 24]
```diff
@@ -0,0 +1,152 @@
...
+      (TensorProduct.rid R R T).toAddMonoidHom (AddMonoidHom.id (T ⊗[R] S))
+      (TensorProduct.AlgebraTensorModule.distribBaseChange R T S S).toAddMonoidHom ?_ ?_
+      (TensorProduct.rid R R T).surjective Function.bijective_id
+      ((TensorProduct.AlgebraTensorModule.distribBaseChange R T S S).injective)|>.mpr ‹_›
+  · ext
+    simp [← Algebra.TensorProduct.linearMap_comp_rid]
+  · change ((TensorProduct.includeLeftSubRight _ _).restrictScalars R).toAddMonoidHom.comp _ = _
+    ext
+    simp only [TensorProduct.includeLeftSubRight_distribBaseChange]
+    rfl
```
Comment (chrisflav) [inline Mathlib/RingTheory/TensorProduct/IncludeLeftSubRight.lean]:
```suggestion
  · ext
    simp
```
With the additional `simp` lemma from above this works now.

File: Mathlib/RingTheory/TensorProduct/IncludeLeftSubRight.lean [hunk 25]
```diff
@@ -0,0 +1,152 @@
...
+When `R` and `S` are commutative rings, this is true if and only if the inclusion
+`im (algebraMap : R → S) → S` is an effective monomorphism in the category of commutative rings. -/
+def IsEffective : Prop :=
+  Function.Exact (Algebra.linearMap R S) (TensorProduct.includeLeftSubRight R S)
+
+section IsEffective
+
+/-- If `IsEffective R S` is true, then the equalizer of `s ↦ s ⊗ₜ 1 : S →+* S ⊗[R] S` and
+`s ↦ 1 ⊗ₜ s : S →+* S ⊗[R] S` is the image of `algebraMap R S : R →+* S`. -/
+lemma eqLocus_includeLeft_includeRight_of_isEffective (h : IsEffective R S) :
```
Comment (chrisflav) [inline Mathlib/RingTheory/TensorProduct/IncludeLeftSubRight.lean]:
```suggestion
namespace IsEffective

/-- If `IsEffective R S` is true, then the equalizer of `s ↦ s ⊗ₜ 1 : S →+* S ⊗[R] S` and
`s ↦ 1 ⊗ₜ s : S →+* S ⊗[R] S` is the image of `algebraMap R S : R →+* S`. -/
lemma eqLocus_includeLeft_includeRight (h : IsEffective R S) :
```
This will enable dot notation on `Algebra.IsEffective` for all the lemmas you prove here.

File: Mathlib/RingTheory/TensorProduct/Maps.lean [hunk 26]
```diff
@@ -267,6 +267,43 @@ variable {A} in
...
+  induction x using TensorProduct.induction_on with
+  | zero => simp only [map_zero]
+  | tmul x y =>
+      trans x • 1 ⊗ₜ[A] (1 ⊗ₜ[R] y)
+      · simp [Algebra.smul_def]
+      · simp [← tmul_smul, smul_tmul' (M := A)]
+  | add _ _ hx hy =>
+    simp only [LinearMap.coe_comp, LinearEquiv.coe_coe, Function.comp_apply,
+      LinearEquiv.restrictScalars_apply] at hx hy
+    simp [hx, hy, tmul_add]
```
Comment (chrisflav) [inline Mathlib/RingTheory/TensorProduct/Maps.lean]:
```suggestion
lemma tmul_one_tmul_one_tmul (x : A) (y : C) :
    x ⊗ₜ[R] (1 : B) ⊗ₜ[A] ((1 : A) ⊗ₜ[R] y) = 1 ⊗ₜ[A] (x ⊗ₜ[R] y) := by
  trans x • 1 ⊗ₜ[A] (1 ⊗ₜ[R] y)
  · simp [Algebra.smul_def]
  · simp [← tmul_smul, smul_tmul' (M := A)]

/-- A relation between `distribBaseChange`, `includeRight` and `lTensor`. -/
lemma distribBaseChange_includeRight_lTensor :
    ((AlgebraTensorModule.distribBaseChange R A B C).restrictScalars R) ∘ₗ
      ((includeRight (R := R) (A := B) (B := C)).toLinearMap.lTensor A) =
    ((includeRight (R := A) (A := A ⊗[R] B) (B := A ⊗[R] C)).restrictScalars R).toLinearMap := by
  ext
  simp [tmul_one_tmul_one_tmul]
```
The key argument should be a separate lemma, it will probably apply more generally. And then it is usually a bad idea to use `LinearMap.ext` for anything related to tensor products, because most of the time there is a better `ext` lemma that avoids any manual `induction x using TensorProduct.induction_on`.

Comment (chrisflav) [reply Mathlib/RingTheory/TensorProduct/Maps.lean]: With the `tmul_one_tmul_one_tmul` lemma from above, `distribBaseChange_includeRight_lTensor` (and `distribBaseChange_includeLeft_lTensor`) is probably also no longer needed. For the proof that used it you can now do:
```
lemma distribBaseChange_comp_includeLeftSubRight (T : Type*) [CommRing T] [Algebra R T] :
    ((TensorProduct.AlgebraTensorModule.distribBaseChange R T S S).restrictScalars R).toLinearMap ∘ₗ
      (includeLeftSubRight R S).lTensor T =
    (includeLeftSubRight T (T ⊗[R] S)).restrictScalars R := by
  ext x y
  simp [TensorProduct.tmul_sub, TensorProduct.one_def, tmul_one_tmul_one_tmul]
```
The argument for not having these `distribBaseChange_includeRight_lTensor` is that they have `LinearMap.restrictScalars` and `toLinearMap` in the goal, which will most likely very rarely work with `rw` or `simp` (the goal would have to be (almost) syntactically equal to the statement here). In contrast, the "applied" lemma `tmul_one_tmul_one_tmul` is invariant under `LinearMap.restrictScalars` etc.

**Review by chrisflav — APPROVED** [review]
Some further nit-picks, but overall this looks very good to me. Thanks a lot!

File: Mathlib/RingTheory/TensorProduct/IncludeLeftSubRight.lean (hunk 20 above)
Comment (yonggyuchoimath) [reply Mathlib/RingTheory/TensorProduct/IncludeLeftSubRight.lean]: Ah, it was contained in a previous version here. I've removed the comment.

File: Mathlib/RingTheory/TensorProduct/Maps.lean (hunk 26 above)
Comment (yonggyuchoimath) [reply Mathlib/RingTheory/TensorProduct/Maps.lean]: This looks really good. Following your suggestion, I added `tmul_one_tmul_one_tmul` and removed both `distribBaseChange_includeRight_lTensor` and `distribBaseChange_includeLeft_lTensor`. Also, as `tmul_one_tmul_one_tmul` isn't directly related to `DistribBaseChange`, I removed the section title.

File: Mathlib/RingTheory/TensorProduct/IncludeLeftSubRight.lean [hunk 27]
```diff
@@ -0,0 +1,151 @@
...
+lemma includeLeftSubRight_algebraMap_zero (r : R) :
+    includeLeftSubRight R S (algebraMap R S r) = 0 :=
+  includeLeftSubRight_zero_of_mem_range (Set.mem_range.mp (exists_apply_eq_apply _ _))
+
+/-- `includeLeftSubRight` is compatible with `distribBaseChange` and `lTensor`. -/
+lemma distribBaseChange_comp_includeLeftSubRight (T : Type*) [CommRing T] [Algebra R T] :
+    ((TensorProduct.AlgebraTensorModule.distribBaseChange R T S S).restrictScalars R).toLinearMap ∘ₗ
+      (includeLeftSubRight R S).lTensor T =
+    (includeLeftSubRight T (T ⊗[R] S)).restrictScalars R := by
+  ext x y
```
Comment (chrisflav) [inline Mathlib/RingTheory/TensorProduct/IncludeLeftSubRight.lean]:
```suggestion
  ext
```

File: Mathlib/RingTheory/TensorProduct/IncludeLeftSubRight.lean [hunk 28]
```diff
@@ -0,0 +1,151 @@
...
+      (TensorProduct.rid R R T).toAddMonoidHom (AddMonoidHom.id (T ⊗[R] S))
+      (TensorProduct.AlgebraTensorModule.distribBaseChange R T S S).toAddMonoidHom ?_ ?_
+      (TensorProduct.rid R R T).surjective Function.bijective_id
+      ((TensorProduct.AlgebraTensorModule.distribBaseChange R T S S).injective)|>.mpr ‹_›
+  · ext
+    simp [← Algebra.TensorProduct.linearMap_comp_rid]
+  · ext
+    simp
+
+/-- `IsEffective R S` is true for any faithfully flat `R`-algebras `S`. -/
```
Comment (chrisflav) [inline Mathlib/RingTheory/TensorProduct/IncludeLeftSubRight.lean]:
```suggestion
/-- `IsEffective R S` is true for any faithfully flat `R`-algebra `S`. -/
```

**Review by chrisflav — APPROVED** [review]
Thanks! LGTM!

**Comment by yonggyuchoimath** [comment]
Thanks!

-awaiting-author
